US07514443B2
3-Pyridin-4-yl-5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-[3-(2,2,2-trifluoroethoxy)-4-trifluoromethyl-phenyl]-4,4,4-trifluoro-butane-1,3-dione (191 mg, 0.5 mmol), prepared from 4-(2,2,2-trifluoroethoxy)-3-trifluoromethyl-acetophenone (synthesis: see part acetophenone derivatives) according to general procedure A, and 3-amino-4-(4-pyridinyl)-pyrazole [CAS No. 216661-87-9; prepared from 4-cyanomethyl-pyridine as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (80 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (127 mg, 50%). MS (ISP) 507.4 [(M+H)+]; mp 251° C.

reactant | 1-[3-(2,2,2-trifluoroethoxy)-4-trifluoromethyl-phenyl]-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 191 mg | FC(COC=1C=C(C=CC1C(F)(F)F)C(CC(C(F)(F)F)=O)=O)(F)F | C13H7F9O3
reactant | 3-amino-4-(4-pyridinyl)-pyrazole | 0.5 mmol, 80 mg | NC1=NNC=C1C1=CC=NC=C1 | C8H8N4
product | 3-Pyridin-4-yl-5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 127 mg, 50% | N1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)C(F)(F)F)OCC(F)(F)F | C21H11F9N4O
